US05661160
Synthesis of 1-[2-[3-(benzo[1,3]dioxol-5-yl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Prepare by the method of example 27.3.1 using 2-[3-(benzo[1,3]dioxol-5-yl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (0.22 g, 0.43 mmol) and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (0.21 g,0.86 mmol). Chromatograph on silica gel eluting sequentially with 50% ethyl acetate/hexane and then 6% methanol/dichloromethane to give the title compound: Rf =0.38 (silica gel, 10% methanol/dichloromethane).

reactant | 2-[3-(benzo[1,3]dioxol-5-yl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 0.43 mmol, 0.22 g | O1COC2=C1C=CC(=C2)C2(CN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 0.86 mmol, 0.21 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol dichloromethane | CO.ClCCl
product | 1-[2-[3-(benzo[1,3]dioxol-5-yl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | O1COC2=C1C=CC(=C2)C2(CN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)CCN2CCC(CC2)(C(=O)N)C2=CC=CC=C2 | C35H41N3O7
